US07238696B2
Preparation of 4-[4-(t-Butoxycarbonyl)piperazin-1-yl]-3-iodo-1H-indazole
A solution of 4-[4-(t-butoxycarbonyl)piperazin-1-yl]-1H-indazole (5.00 g, 16.5 mmol) in N,N-dimethylformamide is treated with powdered potassium hydroxide (1.85 g, 33.07 mmol) and iodine (4.61 g, 18.2 mmol), stirred at room temperature for 16 h, diluted with ethyl acetate and quenched with 15% aqueous sodium metabisulfite. The phases are separated and the aqueous phase is extracted with ethyl acetate. The extracts and the organic phase are combined, washed with brine, dried over sodium sulfate and concentrated in vacuo to afford a crude solid. This solid is purified by column chromatography (silica gel, 10:90 to 15:85 to 20:80 ethyl acetate/hexanes) to afford the title product as a yellow solid, 2.40 g (35% yield) identified by HNMR and mass spectral analyses.

reactant | 4-[4-(t-butoxycarbonyl)piperazin-1-yl]-1H-indazole | 16.5 mmol, 5.00 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C=NNC2=CC=C1 | C16H22N4O2
reactant | potassium hydroxide | 33.07 mmol, 1.85 g | [OH-].[K+]
reactant | iodine | 18.2 mmol, 4.61 g | II | I2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[4-(t-Butoxycarbonyl)piperazin-1-yl]-3-iodo-1H-indazole | 35% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C(=NNC2=CC=C1)I | C16H21IN4O2
